US07981903B2
Palladium on carbon (10% by weight, 2.5 g) was added to a nitrogen-flushed Fischer-Porter vessel. At least a portion of the 4-(3-methoxy-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine from Step B was combined with additional 4-(3-methoxy-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine prepared by substantially the same method. Then, a solution of the 4-(3-methoxy-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine (9.20 g, 33.3 mmol) in Ethyl acetate (150 mL) followed by methanol (50 mL) were added to the vessel. The reaction was purged and then kept under a hydrogen pressure of 60 psi for 2 d. The pressure was released and the reaction was purged with nitrogen. The reaction was filtered through celite and concentrated to afford 2-methoxy-4-(1-propylpiperidin-4-yl)aniline as a white solid (7.0 g, 85% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.86 (t, J=7.5 Hz, 3 H), 1.44 (dt, J=7.4, 7.4 Hz, 2 H), 1.52-1.63 (m, 2 H), 1.63-1.70 (m, 2 H), 1.90 (td, J=11.6, 2.4 Hz, 2 H), 2.20-2.25 (m, 2 H), 2.30 (tt, J=11.9, 4.0 Hz, 1 H), 2.89-2.94 (m, 2 H), 3.74 (s, 3 H), 4.45 (s, 2 H), 6.53 (s, 2 H), 6.65 (s, 1 H). ESIMS (M+H)+=249.

reactant | 4-(3-methoxy-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | 33.3 mmol, 9.20 g | COC=1C=C(C=CC1[N+](=O)[O-])C=1CCN(CC1)CCC | C15H20N2O3
reactant | methanol | 50 mL | CO | CH4O
catalyst | Palladium on carbon | 2.5 g | [Pd] | Pd
solvent | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-4-(1-propylpiperidin-4-yl)aniline | 7.0 g, 85% yield | COC1=C(N)C=CC(=C1)C1CCN(CC1)CCC | C15H24N2O
